US06358980B1
4-(4-But-2-ynyloxybenzenesulfonyl)-N-hydroxy-1-[(4-methoxyphenyl)sulfonyl]-4-piperidinecarboxamide was prepared following the procedure Example 64 (step 6). Starting from 4-(4-But-2-ynyloxybenzenesulfonyl)-1-[(4-methoxyphenyl)sulfonyl]-4-piperidinecarboxylic acid (402 mg, 0.79 mmol) in dimethylformamide (8 ml), 1-hydroxybenzotriazole (128 mg, 0.95 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodimide hydrochloride (212 mg, 1.11 mmol), N-methylmorpholine (0.130 ml, 1.19 mmol), and hydroxylamine (0.242 ml, 3.95 mmol), 396 mg (96%) of the product was isolated as a solid. HR-MS: m/z Calculated for C23H26N2O8S2 523.1203; Found 523.1198.

reactant | 4-(4-But-2-ynyloxybenzenesulfonyl)-1-[(4-methoxyphenyl)sulfonyl]-4-piperidinecarboxylic acid | 0.79 mmol, 402 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C23H25NO8S2
reactant | 1-hydroxybenzotriazole | 0.95 mmol, 128 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodimide hydrochloride | 1.11 mmol, 212 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 1.19 mmol, 0.130 ml | CN1CCOCC1 | C5H11NO
reactant | hydroxylamine | 3.95 mmol, 0.242 ml | NO | H3NO
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 4-(4-But-2-ynyloxybenzenesulfonyl)-N-hydroxy-1-[(4-methoxyphenyl)sulfonyl]-4-piperidinecarboxamide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)NO | C23H26N2O8S2
